US09085582B2
(S)-2-(6-(4-Chlorophenyl)-8-cyano-1-methyl-4H-benzo[f][1,2,4]triazolo[4,3-a][1,4]diazepin-4-yl)-N-ethylacetamide (for a preparation see Intermediate 7) (68.4 mg) was dissolved in DMF (5 ml). Triethylamine hydrochloride (45.0 mg) and sodium azide (21.23 mg) were added and the reaction mixture was heated at 100° C., under nitrogen, overnight. The temperature was raised to 120° C. and the reaction mixture was heated overnight. The reaction mixture was allowed to cool to room temperature, partitioned between ethyl acetate and water. The organic phase was washed with water (2×10 ml) and brine (10 ml). The aqueous layer was passed through a pre equilibrated Biotage 103 column. The organic content was eluted with methanol, the methanolic solution was evaporated and the residue was chromatographed (10-20% methanol:DCM). Trituration with diethyl ether gave (S)-2-(6-(4-chlorophenyl)-1-methyl-8-(2H-tetrazol-5-yl)-4H-benzo[f][1,2,4]triazolo[4,3-a][1,4]diazepin-4-yl)-N-ethylacetamide (25.6 mg) as a yellow solid. LCMS (formate): MH+ 462/464, RT 0.75 min

reactant | (S)-2-(6-(4-Chlorophenyl)-8-cyano-1-methyl-4H-benzo[f][1,2,4]triazolo[4,3-a][1,4]diazepin-4-yl)-N-ethylacetamide | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C=C(C=C3)C#N)C(=NN2)C)CC(=O)NCC | C22H19ClN6O
reactant | Triethylamine hydrochloride | 45.0 mg | Cl.C(C)N(CC)CC
reactant | sodium azide | 21.23 mg | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (S)-2-(6-(4-chlorophenyl)-1-methyl-8-(2H-tetrazol-5-yl)-4H-benzo[f][1,2,4]triazolo[4,3-a][1,4]diazepin-4-yl)-N-ethylacetamide | 25.6 mg | ClC1=CC=C(C=C1)C1=N[C@H](C=2N(C3=C1C=C(C=C3)C=3N=NNN3)C(=NN2)C)CC(=O)NCC | C22H20ClN9O
